US06090804
1-[5-[5-(2-Pyridyl)-IH-1,2,4-triazol-3-yl]-2-thenyl)hexahydro-1H-azepine
81 mg (1.5 mmol) of sodium methoxide was added to 13.5 ml of methanol solution containing 1.56 g (15.0 mmol) of 2-cyanopyridine and stirred at room temperature for 3.5 hours. The reaction mixture was ice-cooled, 0.085 ml (1.5 mmol) of acetic acid and 1.52 g (6.0 mmol) of 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide were added with ice-cooling, and then the mixture was stirred at room temperature for 24 hours. The thus precipitated crystals were collected by filtration to give 1.97 g of the crystals. A 894 mg (2.5 mmol) portion of them was dissolved in 13 ml of acetic acid and heated under reflux for 6.5 hours. The solvent was evaporated, 28% aqueous ammonia and chloroform were added, and then the thus separated organic layer was dried over anhydrous magnesium sulfate. The solvent was evaporated and the resulting residue was purified by a silica gel column chromatography to give 715 mg of the title compound.

reactant | sodium methoxide | 1.5 mmol, 81 mg | C[O-].[Na+]
reactant | 2-cyanopyridine | 15.0 mmol, 1.56 g | C(#N)C1=NC=CC=C1 | C6H4N2
reactant | acetic acid | 1.5 mmol, 0.085 ml | C(C)(=O)O | C2H4O2
reactant | 2-(hexahydro-1H-azepin-1-yl)methylthiophene-5-carboxylic acid hydrazide | 6.0 mmol, 1.52 g | N1(CCCCCC1)CC=1SC(=CC1)C(=O)NN | C12H19N3OS
solvent | methanol | 13.5 ml | CO | CH4O
product | 1-[5-[5-(2-Pyridyl)-IH-1,2,4-triazol-3-yl]-2-thenyl)hexahydro-1H-azepine | 1.97 g | N1=C(C=CC=C1)C1=NC(=NN1)C1=CC=C(S1)CN1CCCCCC1 | C18H21N5S
